US05216023
Preparation of N-octadecatrienoyl L-tyrosine
The same procedure as in Example 5 but 1.81 g (0.01 mole) of L-tyrosine was used as amino acid and EPA-Cl was replaced by 3.56 g (0.012 mole) of GLA-Cl.

reactant | L-tyrosine | 0.01 mole, 1.81 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | (Z)-6,9,12-octadecatrienoyl chloride | 0.012 mole, 3.56 g | C(CCCC\C=C/CC=CCC=CCCCCC)(=O)Cl | C18H29ClO
product | N-octadecatrienoyl L-tyrosine | C(C=CC=CC=CCCCCCCCCCCC)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C27H39NO4
